US04692442
2-[(3S,4R)-4-(4-p-nitrobenzyloxycarbonylaminobutyrylthio)-3-methoxy-2-oxoazetidin-1-yl]-2-hydroxyacetic acid p-nitrobenzyl ester
Analogously to Example 23, 400 mg of (3S,4R)-4-(4-p-nitrobenzyloxycarbonylaminobutyrylthio)-3-methoxy-2-oxoazetidine in 15 ml of absolute toluene and 3.7 ml of absolute dimethylformamide are reacted with 565 mg of 2-ethoxy-2-hydroxyacetic acid p-nitrobenzyl ester in the presence of freshly dried molecular sieves. After working up and chromatography over silica gel, the title compound with the following IR spectrum (CH2Cl2) is obtained:

reactant | (3S,4R)-4-(4-p-nitrobenzyloxycarbonylaminobutyrylthio)-3-methoxy-2-oxoazetidine | 400 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCC(=O)S[C@@H]2[C@H](C(N2)=O)OC)C=C1 | C16H19N3O7S
reactant | 2-ethoxy-2-hydroxyacetic acid p-nitrobenzyl ester | 565 mg | [N+](=O)([O-])C1=CC=C(COC(C(O)OCC)=O)C=C1 | C11H13NO6
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 3.7 ml | CN(C=O)C | C3H7NO
product | 2-[(3S,4R)-4-(4-p-nitrobenzyloxycarbonylaminobutyrylthio)-3-methoxy-2-oxoazetidin-1-yl]-2-hydroxyacetic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(C(O)N2C([C@@H]([C@H]2SC(CCCNC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)OC)=O)=O)C=C1 | C25H26N4O12S
